US08124606B2
Compound 83A: Methyl 6-(benzyl(2-ethoxy-2-oxoethyl)amino)-5-nitronicotinate:
Methyl 6-chloro-5-nitronicotinate (2.0 g, 9.23 mmol) was added to methyl 2-(benzylamino)acetate (6.0 g, 31.05 mmol) neat while stirring at room temperature. The viscous yellow reaction was heated to 90° C. for one h and then allowed to cool back to room temperature. The reaction was diluted with dichloromethane (20 mL) and purified via column chromatography (220 g SiO2, 20-30% gradient, ethyl acetate in hexanes) to yield the title compound (3.10 g, 90% yield) as a yellow oil. [M+H] calc'd for C18H19N3O6, 374. found, 374.

reactant | Methyl 6-chloro-5-nitronicotinate | 9.23 mmol, 2.0 g | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
reactant | methyl 2-(benzylamino)acetate | 31.05 mmol, 6.0 g | C(C1=CC=CC=C1)NCC(=O)OC | C10H13NO2
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Methyl 6-(benzyl(2-ethoxy-2-oxoethyl)amino)-5-nitronicotinate | 3.10 g, 90% yield | C(C1=CC=CC=C1)N(C1=NC=C(C(=O)OC)C=C1[N+](=O)[O-])CC(=O)OCC | C18H19N3O6
